US05110807
15.1 g of ethyl acrylate are added portionwise to a solution of 22.5 g (0,15 Mol) of N-[3-(pyrid-4-yl)propyl]-N-methyl-amine in 50 ml of diethyl ether. The clear solution formed is allowed to stand overnight. The solvent is evaporated off. Ethyl 3-{N-[3-(pyrid-4-yl)propyl]-N-methyl-amino}-propionate is thus obtained as an oil.

reactant | ethyl acrylate | 15.1 g | C(C=C)(=O)OCC | C5H8O2
reactant | N-[3-(pyrid-4-yl)propyl]-N-methyl-amine | 0,15 Mol, 22.5 g | N1=CC=C(C=C1)CCCNC | C9H14N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | Ethyl 3-{N-[3-(pyrid-4-yl)propyl]-N-methyl-amino}-propionate | N1=CC=C(C=C1)CCCN(C)CCC(=O)OCC | C14H22N2O2
